US05286861
5-benzyl-6- methanesulphonyloxy-2,4-(1H,3H)-pyrimidinedione
A solution of methanesulfonyl chloride (1.4 ml) in DMF (20 ml) was dropped into a stirred suspension of the triethylammonium salt of 5-benzyl-2,4,6-(1H,3H)-pyrimidinetrione (g 5) in DMF (210 ml). After an hour most of the solvent was removed in vacuo. The residual suspension was then poured into a ice-water mixture, and the precipitated white solid was collected by filtration, to yield, after drying, the title product, (4 g, 36.2% yield).

reactant | methanesulfonyl chloride | 1.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylammonium | C(C)[NH+](CC)CC
reactant | 5-benzyl-2,4,6-(1H,3H)-pyrimidinetrione | C(C1=CC=CC=C1)C1C(NC(NC1=O)=O)=O | C11H10N2O3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 210 ml | CN(C)C=O | C3H7NO
product | 5-benzyl-6- methanesulphonyloxy-2,4-(1H,3H)-pyrimidinedione | 4 g, 36.2% yield | C(C1=CC=CC=C1)C=1C(NC(NC1OS(=O)(=O)C)=O)=O | C12H12N2O5S
